US05182272
4-chloro-2-nitro-1-(phenylthio)benzene (32)
To a stirring solution of 10.0 g (91 mmol) of thiophenol in 170 mL of DMF is added 6.2 g (95 mmol) of KOH. When the KOH has dissolved, i7 g (91 mmol) of 2,5-dichloronitrobenzene is added. After stirring for 3 hours at 70° C., the solvent is removed in vacuo. The residue is partitioned between CHCl3 and N NaOH. The organic layer is washed with N NaOH, H2O, N HCl, H2O and is dried over NaSO4 anhydrous, filtered, and stripped. The product is crystallized from cyclohexane.

reactant | thiophenol | 91 mmol, 10.0 g | C1(=CC=CC=C1)S | C6H6S
reactant | KOH | 95 mmol, 6.2 g | [OH-].[K+]
reactant | 2,5-dichloronitrobenzene | 91 mmol | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | DMF | 170 mL | CN(C)C=O | C3H7NO
product | 4-chloro-2-nitro-1-(phenylthio)benzene | ClC1=CC(=C(C=C1)SC1=CC=CC=C1)[N+](=O)[O-] | C12H8ClNO2S
